US04929618
To a mixture of 0.76 g (2.51 mmol) of 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine and 0.73 g (2.53 mmol) of 2-(3-bromopropylthio)benzothiazole, were added 6 ml of acetone and 0.35 g (2.53 mmol) of potassium carbonate, and the mixture was stirred at room temperature for 15 hours. After the reaction, the insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The residue was separated by silica gel column chromatography using chloroform alone first, and then a mixture of chloroform and methanol in the volume ratio 30:1 as the eluent, and the desired fraction was concentrated to give 0.52 g (41%) of 2-[3-[4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-piperidyl]propylthio]benzothiazole as an oil.

reactant | 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine | 2.51 mmol, 0.76 g | ClC1=CC=C(C=C1)C(OC1CCNCC1)C1=NC=CC=C1 | C17H19ClN2O
reactant | 2-(3-bromopropylthio)benzothiazole | 2.53 mmol, 0.73 g | BrCCCSC=1SC2=C(N1)C=CC=C2 | C10H10BrNS2
reactant | potassium carbonate | 2.53 mmol, 0.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 2-[3-[4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-piperidyl]propylthio]benzothiazole | 0.52 g, 41% | ClC1=CC=C(C=C1)C(OC1CCN(CC1)CCCSC=1SC2=C(N1)C=CC=C2)C2=NC=CC=C2 | C27H28ClN3OS2
